US04283544
8.5 g (0.1 mol) of 2-methyloxazoline and 14.9 g (0.1 mol) of 3-methyl-2-butenyl bromide were stirred in 50 ml of acetonitrile at 20° to 25° C. for 2 hours and, after adding 20 ml of a 5 N sodium methylate solution, the mixture was stirred at room temperature for a further 3 hours. The solution was filtered and, after stripping off the solvent, the residue was distilled. 15.6 g (84 mmols, 84%) of 2-methoxy-2-methyl-3-(3-methyl-2-butenyl)-oxazolidine of boiling point 96°-99° C./20 mm Hg were obtained.

reactant | 2-methyloxazoline | 0.1 mol, 8.5 g | CC=1OCCN1 | C4H7NO
reactant | 3-methyl-2-butenyl bromide | 0.1 mol, 14.9 g | CC(=CCBr)C | C5H9Br
reactant | sodium methylate | 5 N | C[O-].[Na+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 2-methoxy-2-methyl-3-(3-methyl-2-butenyl)-oxazolidine | 84 mmols, 15.6 g, 84% | COC1(OCCN1CC=C(C)C)C | C10H19NO2
